************************************************************************
* auCdl Netlist:
* 
* Library Name:  stdcell_rv32Lib
* Top Cell Name: mux4
* View Name:     schematic
* Netlisted on:  Mar 21 17:25:35 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!
+        vdd:P
+        VDD:P
+        vss:G
+        VSS:G

*.PIN vss!
*+    vdd!
*+    vdd
*+    VDD
*+    vss
*+    VSS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    trans
* View Name:    schematic
************************************************************************

.SUBCKT trans A G Gb Z
*.PININFO A:I G:I Gb:I Z:B
MM0 Z Gb A vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z G A vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv A Z
*.PININFO A:I Z:O
MM0 Z A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z A vss! vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    mux4
* View Name:    schematic
************************************************************************

.SUBCKT mux4 A B C D S0 S1 Z
*.PININFO A:I B:I C:I D:I S0:I S1:I Z:O
XI5 net12 S1 S1b Z / trans
XI4 net4 S1b S1 Z / trans
XI3 D S0 S0b net12 / trans
XI2 C S0b S0 net12 / trans
XI1 B S0 S0b net4 / trans
XI0 A S0b S0 net4 / trans
XI7 S1 S1b / inv
XI6 S0 S0b / inv
.ENDS

